US07615568B2
B. 3-[2-Acetoxy-4-methylthiobenzoylamino]-N-(5-chloro-pyridin-2-yl)pyridine-2-carboxamide
To a 0° C. mixture of 2-acetoxy-4-methylthiobenzoic acid (5 g, 22.1 mmol), dichloromethane (75 mL), NEt3 (3.1 mL, 22.1 mmol) and DMF (17 μL, 0.221 mmol) was added oxalyl chloride (1.92 mL, 22.1 mL) at a rate to give gentle bubbling. The mixture was stirred for 1 h and then was concentrated in vacuo. The resulting residue was dissolved in dichloromethane (75 mL). To this solution was added 3-amino-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide (5.5 g, 22.1 mmol) followed by NEt3 (3.1 mL, 22.1 mmol). The reaction mixture was stirred for 18 h, concentrated to a slurry in dichloromethane and chromatographed (75 g silica gel; 100% dichloromethane to 100% EtOAc) to give the title compound as an impure solid (8.5 g).

reactant | 2-acetoxy-4-methylthiobenzoic acid | 22.1 mmol, 5 g | C(C)(=O)OC1=C(C(=S)O)C=CC(=C1)C | C10H10O3S
reactant | NEt3 | 22.1 mmol, 3.1 mL | CCN(CC)CC | C6H15N
reactant | DMF | 0.221 mmol, 17 μL | CN(C)C=O | C3H7NO
reactant | oxalyl chloride | 1.92 mL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-amino-N-(5-chloropyridin-2-yl)pyridine-2-carboxamide | 22.1 mmol, 5.5 g | NC=1C(=NC=CC1)C(=O)NC1=NC=C(C=C1)Cl | C11H9ClN4O
reactant | NEt3 | 22.1 mmol, 3.1 mL | CCN(CC)CC | C6H15N
solvent | dichloromethane | 75 mL | ClCCl | CH2Cl2
product | 3-[2-Acetoxy-4-methylthiobenzoylamino]-N-(5-chloro-pyridin-2-yl)pyridine-2-carboxamide | C(C)(=O)OC1=C(C(=S)NC=2C(=NC=CC2)C(=O)NC2=NC=C(C=C2)Cl)C=CC(=C1)C | C21H17ClN4O3S
